US05610153
c) 3-(R)-[(1-(S)-Ethoxycarbonyl-3-cyclohexylpropyl)amino]-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine
Obtained analogously to the directions in Example 1c) starting from (R)-3-amino-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine hydrochloride, 2.93 g of (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester and 1.85 ml of N-methylmorpholine. Colourless resin, Rf value (eluant hexane/ethyl acetate 4:1): 0.36.

reactant | (R)-3-amino-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine hydrochloride | Cl.N[C@@H]1COC2=C(N(C1=O)CC1=CC=C(C=C1)C(C)C)C=CC=C2
reactant | (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester | 2.93 g | C(C)OC([C@@H](CCC1CCCCC1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H25NO7S
reactant | N-methylmorpholine | 1.85 ml | CN1CCOCC1 | C5H11NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(R)-[(1-(S)-Ethoxycarbonyl-3-cyclohexylpropyl)amino]-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine | C(C)OC(=O)[C@H](CCC1CCCCC1)N[C@@H]1COC2=C(N(C1=O)CC1=CC=C(C=C1)C(C)C)C=CC=C2 | C31H42N2O4
